US04556413
A solution of 99.3 g of m-acetoxybenzoyl chloride in 150 ml of absolute tetrahydrofuran is added dropwise at -35° C. during 20 minutes while stirring to the dimethyl sulphoximine potassium salt suspension and the mixture is then stirred at -35° C. for 30 minutes. N-(m-Acetoxybenzoyl)-S,S-dimethyl-sulphoximine is thus formed in suspension.

reactant | m-acetoxybenzoyl chloride | 99.3 g | C(C)(=O)OC=1C=C(C(=O)Cl)C=CC1 | C9H7ClO3
reactant | dimethyl sulphoximine potassium salt | [K].CS(=O)(=N)C
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | N-(m-Acetoxybenzoyl)-S,S-dimethyl-sulphoximine | C(C)(=O)OC=1C=C(C(=O)N=S(=O)(C)C)C=CC1 | C11H13NO4S
